US06573377B1
A 27.5 g portion of 2,4,6-trichloropyrimidine was suspended in a mixed solvent of 200 ml ethanol and 200 ml methylene chloride, to which, under ice-cooling, was subsequently added dropwise 30 ml of 4-methoxybenzylamine. After 19 hours of stirring at the same temperature, 10 ml of 4-methoxybenzylamine was further added dropwise and the mixture was stirred for 18 hours. The reaction solution was mixed with 200 ml of 0.5 N phosphoric acid aqueous solution and extracted with chloroform, and then the organic layer was washed with saturated brine. After drying with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the thus obtained residue was applied to a silica gel chromatography and developed with a chloroform-hexane (3:1) mixed solvent to obtain 13.3 g of 4,6-dichloro-2-(4-methoxybenzyl)aminopyrimidine and further developed with a chloroform-ethyl acetate (1:3) mixed solvent to obtain 24.2 g of 2,6-dichloro-4-(4-methoxybenzyl)aminopyrimidine. 2,6-Dichloro-4-(4-methoxybenzyl)aminopyrimidine

reactant | 2,4,6-trichloropyrimidine | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 4-methoxybenzylamine | 30 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 4-methoxybenzylamine | 10 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | phosphoric acid | 0.5 N, 200 ml | P(O)(O)(O)=O | H3O4P
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4,6-dichloro-2-(4-methoxybenzyl)aminopyrimidine | 13.3 g | ClC1=NC(=NC(=C1)Cl)NCC1=CC=C(C=C1)OC | C12H11Cl2N3O
